US08633186B2
N-(2-Cyano-5-trifluoromethylphenyl)sulfamide
Prepared as in Example 77a from 2-amino-4-trifluoromethylbenzonitrile and sulfamoyl chloride. 1H NMR (400 MHz, DMSO-d6) δ 7.53 (s, 1H), 7.74-7.76 (d, J=8.4 Hz, 1H), 8.01-8.03 (dd, J=8.4 Hz, 1.6 Hz, 1H), 8.23 (s, 1H), 10.16 (b, 1H).

reactant | 2-amino-4-trifluoromethylbenzonitrile | NC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H5F3N2
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
product | N-(2-Cyano-5-trifluoromethylphenyl)sulfamide | C(#N)C1=C(C=C(C=C1)C(F)(F)F)NS(=O)(=O)N | C8H6F3N3O2S
